US06265575B1
Part C. 3-(4-Cyanobenzyl)-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene
3-(4-Bromobenzyl)-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene (300 mg, 0.61 mmol) in DMF (5 mL) was treated with CuCN (135 mg) at reflux for 3 h. The cooled reaction mixture was extracted with EtOAc (3×50 mL), with water (50 mL) washing. The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:5:90) afforded the product (90 mg, 34%).

reactant | 3-(4-Bromobenzyl)-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 0.61 mmol, 300 mg | BrC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=CC=C3)C=C1 | C27H26BrNOS
reactant | CuCN | 135 mg | C(#N)[Cu]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(4-Cyanobenzyl)-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 90 mg, 34% | C(#N)C1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=CC=C3)C=C1 | C28H26N2OS
